Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
metformin
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
EUS

attach
 
Pertinent Results:
___ 05:10AM BLOOD WBC-5.2 RBC-5.86* Hgb-13.4 Hct-44.1 
MCV-75* MCH-22.9* MCHC-30.4* RDW-15.0 RDWSD-40.3 Plt ___
___ 05:10AM BLOOD Glucose-96 UreaN-7 Creat-0.9 Na-145 K-4.8 
Cl-105 HCO3-24 AnGap-16
___ 05:10AM BLOOD ALT-19 AST-37 AlkPhos-98 TotBili-0.5
___ 05:10AM BLOOD Mg-1.7
___ 05:05AM BLOOD Calcium-9.5 Phos-3.0 Mg-1.6
___ 12:45PM BLOOD Triglyc-84

MRCP:
IMPRESSION:  
  
Overall worsening irregularity in multifocal stricturing of the 
main 
pancreatic duct in association with chronic pancreatitis.  This 
includes a 
tight, worsening stricture in the pancreatic head.  This is 
unlikely to 
represent a malignant process since it seems to represent 
worsening of a long 
term process within otherwise fairly similar pattern allowing 
for differences 
in modality.  However, motion artifact limits several of the 
sequences in may 
reduce sensitivity for detection of any very small mass that 
might be present. 
Unchanged left adrenal adenoma. 
  
RECOMMENDATION(S):  Given weight loss it may be appropriate to 
consider 
follow-up MR to better exclude a subtle mass, clinically 
indicated, although 
findings are most likely due to chronic pancreatitis. 

 
Brief Hospital Course:
This is a ___ year old female with history of idiopathic 
pancreatitis, type 2 diabetes recently changed from 
lantus-regimen to oral agent regimen, hypertension, presenting 
with 2 month of worsening nausea, found to have elevated lipase 
and mild epigastric pain.

# Generalized abdominal pain 
# Suspected acute pancreatitis 
# Chronic idiopathic pancreatitis 
Patient with chronic idiopathic pancreatitis followed by Dr. 
___ imaging with pancreatic duct dilation with 
multiple strictures of unclear etiology; now with symptoms and 
signs of mild acute on chronic pancreatitis (elevated lipase,
symptoms similar to prior presentations); unclear etiology.  
Repeat MRCP with worsening of stricture which may be playing a 
role.  Alternative diagnoses considered as well given her wt 
loss.  Given her wt loss underlying malignancy was of concern.  
She underwent EUS which did not show mass which is re-assuring.  
She does cont to have PD stricture but it was felt that 
re-stenting would be of no benefit.  However, age appropriate 
cancer screening is reasonable to exclude other causes.  Her 
diet was quickly advanced without difficulty.  SHe was initiated 
on a trial of ranitidine an tums with good effect.  SHe should 
follow up with her PCP and Dr. ___ ongoing care.  We 
recommend age appropriate cancer screening as well.

# Acute severe protein calorie malnutrition 
Confirmed via review of ___ records, patient has lost ~20lbs 
over last ___ months, unintentionally; unclear if related to 
above; last ___ ___ was normal, recommended for ___ year 
follow-up.  She did not have any diarrhea or symptoms of 
malabsorption necessarily.  She will need age appropriate 
canceer screening and possibly further work up of metabolic 
causes
- resumed creon

# Diabetes type 2 
Recently changed from lantus 6 units qAM to a regimen with 
metformin + jardiance
- hold metformin + jardiance while inpatient
- sliding scale Humalog; 
- resumed on DC

# Hyperlipidemia
- continued statin 
- continued ASA 

# Chronic R shoulder pain
- continued Gabapentin 

# Hypertension 
- Resume on DC

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Jardiance (empagliflozin) 25 mg oral DAILY 
2. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
3. MetFORMIN XR (Glucophage XR) 500 mg PO QPM 
4. Creon 12 2 CAP PO TID W/MEALS 
5. Atorvastatin 40 mg PO QPM 
6. Gabapentin 300 mg PO TID 
7. Lisinopril 40 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Calcium Carbonate 500 mg PO QID:PRN heartburn  
2.  Ranitidine 150 mg PO DAILY 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth once a day Disp 
#*30 Capsule Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Creon 12 2 CAP PO TID W/MEALS  
6.  Gabapentin 300 mg PO TID  
7.  Jardiance (empagliflozin) 25 mg oral DAILY  
8.  Lisinopril 40 mg PO DAILY  
9.  MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
Do Not Crush  
10.  MetFORMIN XR (Glucophage XR) 500 mg PO QPM 
Do Not Crush  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic pancreatitis
Pancreatic duct stricture
Weight loss/malnutrition
Type 2 diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of abdominal pain and weight 
loss.  You were found to have a stricture in your pancreatic 
duct.  Endoscopic ultrasound did not find any masses.  We are 
trying medication to stop your stomach acid as well to see if 
this helps your symptoms.

Please adhere to a low fat consistent carbohydrate diet.  Please 
follow up with Dr. ___ ongoing care
 
Followup Instructions:
___